US09034900B2
Step 1: 2-methyl-6-(1-methylpyrazol-4-yl)isoquinolin-1-one
A mixture of 6-bromo-2-methylisoquinolin-1-one (3.8 g, 16 mmol), 1-methyl-4-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (6.69 g, 32 mmol), CsF (7.29 g, 48 mmol), Pd(PPh3)2Cl2 (0.4 g, 1 mmol) in dioxane/H2O (60/10 mL) was stirred at 90° C. for 12 h under N2. The mixture was concentrated and the residue was purified by silica gel chromatography (PE:EA=2:1) to give the title compound (3.1 g, 81%) as a yellow solid. 1H NMR (CDCl3, 400 MHz) δ 8.40 (d, J=12 Hz, 1H), 7.87 (s, 1H), 7.74 (s, 1H), 7.59-7.56 (dt, J1=4 Hz, J2=8 Hz, 2H), 7.07 (d, J=4 Hz, 1H), 6.48 (d, J=8 Hz, 1H) 3.98 (s, 3H), 3.61 (s, 3H). LCMS: 240.0 (M+H)+

reactant | 6-bromo-2-methylisoquinolin-1-one | 16 mmol, 3.8 g | BrC=1C=C2C=CN(C(C2=CC1)=O)C | C10H8BrNO
reactant | 1-methyl-4-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 32 mmol, 6.69 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | CsF | 48 mmol, 7.29 g | [F-].[Cs+]
solvent | dioxane H2O | 10 mL | O1CCOCC1.O
catalyst | Pd(PPh3)2Cl2 | 1 mmol, 0.4 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-methyl-6-(1-methylpyrazol-4-yl)isoquinolin-1-one | 3.1 g, 81% | CN1C(C2=CC=C(C=C2C=C1)C=1C=NN(C1)C)=O | C14H13N3O
